US07109148B2
First, 88 mg of isoamyl nitrite was added dropwise to a mixture of 0.24 g of methyl [3-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate, 99 mg of copper (I) chloride, 0.20 g of copper (II) chloride, and 2.5 ml of acetonitrile at room temperature, and the mixture was stirred for 1 hour. The reaction mixture was poured into 2% hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.21 g of methyl [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate (compound a-6).

reactant | isoamyl nitrite | 88 mg | N(=O)OCCC(C)C | C5H11NO2
reactant | methyl [3-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate | 0.24 g | NC1=C(OC=2C(=NC=CC2)OCC(=O)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H16F4N4O6
reactant | hydrochloric acid | Cl | ClH
catalyst | copper (I) chloride | 99 mg | [Cu]Cl
catalyst | copper (II) chloride | 0.20 g | [Cu](Cl)Cl
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
product | methyl [3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-2-pyridyloxy]acetate | 0.21 g | ClC1=C(OC=2C(=NC=CC2)OCC(=O)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H14ClF4N3O6
